US03959205
The same vessel as in Example 1 was charged with 130 g. of methanol, 25 g. of water, 320 g. of vinyl acetate, 15 g. of 30% aqueous solution of sodium ethylenesulfonate and 2.8 g. of azobisisobutylonitrile, and polymerization was carried out at a temperature of 70°C. for 3 hours. After adding 2.8 g. of 30% aqueous solution of sodiem ethylenesulfonate to the vessel, the polymerization was further continued for 5 hours to give vinyl acetate-sodium ethylenesulfonate copolymer containing 2.3% by mole of sodium ethylenesulfonate unit. Then the copolymer was hydrolyzed by a conventional method to give a modified PVA of which degree of hydrolysis was 92% by mole.

reactant | methanol | CO | CH4O
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | sodium ethylenesulfonate | C=CS(=O)(=O)[O-].[Na+]
reactant | azobisisobutylonitrile | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | water | O | H2O
product | vinyl acetate sodium ethylenesulfonate | C(C)(=O)OC=C.C=CS(=O)(=O)[O-].[Na+] | InChI=1S/C4H6O2.C2H4O3S.Na/c1-3-6-4(2)5;1-2-6(3,4)5;/h3H,1H2,2H3;2H,1H2,(H,3,4,5);/q;;+1/p-1
